US08048909B2
[5-Bromo-4-ethyl-1-(phenylsulfonyl)-1H-pyrrol-3-yl]methanol
Using methyl 5-bromo-4-ethyl-1-(phenylsulfonyl)-1H-pyrrole-3-carboxylate (1.35 g) and a 1.5 mol/L solution (7.5 mL) of diisobutylaluminum hydride in toluene, a procedure as in Reference Example 5 was performed to give the title compound as a brown oil (yield 1.10 g, 88%).

reactant | methyl 5-bromo-4-ethyl-1-(phenylsulfonyl)-1H-pyrrole-3-carboxylate | 1.35 g | BrC1=C(C(=CN1S(=O)(=O)C1=CC=CC=C1)C(=O)OC)CC | C14H14BrNO4S
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | [5-Bromo-4-ethyl-1-(phenylsulfonyl)-1H-pyrrol-3-yl]methanol | yield 1.10 g, 88% | BrC1=C(C(=CN1S(=O)(=O)C1=CC=CC=C1)CO)CC | C13H14BrNO3S
